US05158949
To a flame-dried flask containing 7.75 g of magnesium turnings under ether was added 4-chlorophenethyl bromide (70 g) in anhydrous ether (250 mL) at such a rate as to maintain a gentle reflux. When the addition was complete, the mixture was heated under reflux for an additional hour and then treated dropwise over one hour with allyl bromide (27.6 mL, 38.6 g) in ether (75 mL) maintaining a gentle reflux. The resulting mixture was stirred overnight at room temperature and then poured onto 600 mL of ice-cold dilute sulfuric acid. The product was extracted with ethyl acetate and the combined extracts were washed with dilute aqueous potassium carbonate, dried (MgSO4) and evaporated. The resulting brown oil was distilled under reduced pressure to give 43 g of 5-(4-chlorophenyl)pent-1-ene, b.p. 74°-80° (2 mmHg) as a colorless liquid.

reactant | magnesium | 7.75 g | [Mg] | Mg
reactant | 4-chlorophenethyl bromide | 70 g | ClC1=CC=C(CCBr)C=C1 | C8H8BrCl
reactant | allyl bromide | 27.6 mL, 38.6 g | C(C=C)Br | C3H5Br
solvent | ether | 250 mL | CCOCC | C4H10O
solvent | ether | 75 mL | CCOCC | C4H10O
product | 5-(4-chlorophenyl)pent-1-ene | 43 g | ClC1=CC=C(C=C1)CCCC=C | C11H13Cl
